US04705900
A suspension of sodium hydride (0.1 g) in dry dimethylsulphoxide (15 cm3) was heated to 65° C. for a period of 11/2 hours. After cooling to the ambient temperature (ca. 25° C.) 4-trifluoromethylphenyltriphenylphosphonium bromide (1.75 g) was added in portions, and the mixture was stirred for a further hour. A solution of 2,2-dimethyl-3-(3-phenoxybenzyloxy)propan-1-al in dimethylsulphoxide (15 cm3) was then added, and after stirring for 2 hours, the reaction mixture was poured into water and extracted into ethylacetate. The extracts were combined, washed with water and dried over anhydrous magnesium sulphate, and concentrated by evaporation of the solvent to yield an orange oil. This was flash chromatographed on a silica gel column with dichloromethane as eluent to yield 3,3-dimethyl-1-(4-trifluoromethylphenyl)-4-(3-phenoxybenzyloxy)but-1-ene (0.7 g) as a colourless oil, identified by nmr spectroscopy as an impure mixture of the Z and E isomers (ratio 3:1).

reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | 4-trifluoromethylphenyltriphenylphosphonium bromide | 1.75 g | [Br-].FC(C1=CC=C(C=C1)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F
reactant | 2,2-dimethyl-3-(3-phenoxybenzyloxy)propan-1-al | CC(C=O)(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C18H20O3
reactant | water | O | H2O
reactant | dimethylsulphoxide | 15 cm3 | CS(=O)C | C2H6OS
reactant | dimethylsulphoxide | 15 cm3 | CS(=O)C | C2H6OS
product | 3,3-dimethyl-1-(4-trifluoromethylphenyl)-4-(3-phenoxybenzyloxy)but-1-ene | 0.7 g | CC(C=CC1=CC=C(C=C1)C(F)(F)F)(COCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C26H25F3O2
